US07291635B2
A solution of 2.35 g (8.8 mmol) of the title A compound, (3-methyl-4-nitrophenoxy)-acetic acid t-butyl ester in 40 mL of EtOH is hydrogenated at 45 psi for 18 h in the presence of 10% Pd/C. The catalyst is removed by filtration through Celite and the filtrate is concentrated to give (4-amino-3-methylphenoxy)-acetic acid t-butyl ester as an oil: 1H-NMR (CDCl3) δ 6.68 (br s, 1H), 6.61 (s, 2H), 4.43 (s, 2H), 2.15 (s, 3H), 1.48 (s, 9H); [M+1]+=238.

reactant | (3-methyl-4-nitrophenoxy)-acetic acid t-butyl ester | C(C)(C)(C)OC(COC1=CC(=C(C=C1)[N+](=O)[O-])C)=O | C13H17NO5
solvent | EtOH | 40 mL | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | (4-amino-3-methylphenoxy)-acetic acid t-butyl ester | C(C)(C)(C)OC(COC1=CC(=C(C=C1)N)C)=O | C13H19NO3
